US06323197B1
5-(4-Nitrophenyl)-9H-[1,3-]dioxolo[4,5-h][2,3]-benzodiazepine-8-carboxylic acid
42 ml of a 4% NaOH solution is added to a solution of 3.0 g of AgNO3 in water (50 ml). The solution of 3.0 g of 8-formyl-5-(4-nitrophenyl)-9H-1,3-dioxolo[4,5-h-][2,3]-benzodiazepine in 120 ml of dioxane is slowly added to the heterogeneous mixture, and the reaction mixture is stirred for 30 minutes at 25° C. After activated carbon is added, it is filtered, the filtrate is concentrated by evaporation in a vacuum at 50-60° C., the suspension that is produced is diluted with 30 ml of water and cooled. After standing overnight, it is filtered off, the precipitate is washed with 2×10 ml of ice water, and 1.94 g of sodium salt, which is dissolved in 60 ml of hot water and, after cooling, acidified with 1 ml of acetic acid, is obtained. After filtration and washing with water, 1.66 g (53%) of product with a melting point of 196-198° C. (decomposition) is obtained.

reactant | NaOH | [OH-].[Na+]
reactant | 8-formyl-5-(4-nitrophenyl)-9H-1,3-dioxolo[4,5-h-][2,3]-benzodiazepine | 3.0 g | C(=O)C1=NN=C(C2=C(C1)C=C1C(=C2)OCO1)C1=CC=C(C=C1)[N+](=O)[O-] | C17H11N3O5
solvent | water | 50 ml | O | H2O
solvent | dioxane | 120 ml | O1CCOCC1 | C4H8O2
solvent | water | 30 ml | O | H2O
catalyst | AgNO3 | 3.0 g | [N+](=O)([O-])[O-].[Ag+]
product | 5-(4-Nitrophenyl)-9H-[1,3-]dioxolo[4,5-h][2,3]-benzodiazepine-8-carboxylic acid | [N+](=O)([O-])C1=CC=C(C=C1)C1=NN=C(CC2=C1C=C1C(=C2)OCO1)C(=O)O | C17H11N3O6
